US05389633
Production of ethyl 5-bromo-2,2-diethylvalerate
Using ethyl 2-ethylbutyrate and 1,3-dibromopropane, the same reaction as in Reference Example 16 was conducted to produce the title compound. b.p. 98°-102° C./0.3 mmHg

reactant | ethyl 2-ethylbutyrate | C(C)C(C(=O)OCC)CC | C8H16O2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | ethyl 5-bromo-2,2-diethylvalerate | BrCCCC(C(=O)OCC)(CC)CC | C11H21BrO2
